US04551264
A solution of 10 g of 2,6-difluoro-4-(trans-4-pentylcyclohexyl)-benzonitrile and 20 g of KOH in 40 ml of water and 160 ml of ethanol is boiled for 16 hours, cooled and worked up in the usual manner to give 2,6-difluoro-4-(trans-4-pentylcyclohexyl)-benzoic acid.

reactant | 2,6-difluoro-4-(trans-4-pentylcyclohexyl)-benzonitrile | 10 g | FC1=C(C#N)C(=CC(=C1)[C@@H]1CC[C@H](CC1)CCCCC)F | C18H23F2N
reactant | KOH | 20 g | [OH-].[K+]
reactant | water | 40 ml | O | H2O
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 2,6-difluoro-4-(trans-4-pentylcyclohexyl)-benzoic acid | FC1=C(C(=O)O)C(=CC(=C1)[C@@H]1CC[C@H](CC1)CCCCC)F | C18H24F2O2
